US05952381
Preparation of methyl 3-[[(cyanoimino)(methylthio)methyl]amino]benzoate
A stirred mixture of methyl 3-aminobenzoate (6.04 g, 40 mmol) and dimethyl N-cyanodithioiminocarbonate (11.96 g, 80 mmol) in pyridine (70 mL) was heated at reflux for 2.5 hours. The reaction mixture was cooled to room temperature and upon standing overnight at room temperature the above compound (6.2 g) crystallized from the reaction mixture. The compound was used without further purification. 1H NMR was consistent with the proposed structure.

reactant | methyl 3-aminobenzoate | 40 mmol, 6.04 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | dimethyl N-cyanodithioiminocarbonate | 80 mmol, 11.96 g | CSC(=NC#N)SC | C4H6N2S2
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | methyl 3-[[(cyanoimino)(methylthio)methyl]amino]benzoate | C(#N)N=C(SC)NC=1C=C(C(=O)OC)C=CC1 | C11H11N3O2S
